US08217065B2
D. 4-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-benzene-1,2-diamine
To a 25 mL rbf was added 0.4137 g (1.31 mmol) of 4-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-nitro-phenylamine, 4 mL of THF/EtOH (1:1). Vacuum flushed 3×, then added 0.1655 g of PtO2 (40% by weight) as a slurry in 2 mL of THF/EtOH (1:1). It was flushed with H2 3× and allowed to stir at r.t. for 18 h. 10 ml DCM and Celite was added and it was let stir 1 h. The mixture was then filtered through Celite pad, and the filter cake was rinsed with 20 mL DCM. The filtrate was reduced in vacuo to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.85 (br. s., 1.7 H) 5.31 (br. s., 1.7 H) 6.62 (d, J=8.08 Hz, 1 H) 7.19 (dd, J=8.08, 1.89 Hz, 1 H) 7.26 (d, J=2.02 Hz, 1H) 7.66-7.70 (m, 2 H) 8.02-8.06 (m, 2 H). MS (m/z) 287.2 M (+1), tR=1.18, Meth 10

reactant | 4-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-2-nitro-phenylamine | 1.31 mmol, 0.4137 g | ClC1=CC=C(C=C1)C1=NN=C(O1)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C14H9ClN4O3
solvent | THF EtOH | 4 mL | C1CCOC1.CCO
product | 4-[5-(4-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-benzene-1,2-diamine | ClC1=CC=C(C=C1)C1=NN=C(O1)C=1C=C(C(=CC1)N)N | C14H11ClN4O
